US07550474B2
d. 2-(3-Chlorophenyl)-2,2-difluoroethylamine
2-(3-chlorophenyl)-2,2-difluoroethylamine hydrochloride (1.65 g, 7.23 mmol), as prepared in the previous step, was taken up with 2.5 M NaOH (4 mL) and extracted with ether (1×8 mL, 1×4 mL). The combined organic layers were dried (Na2SO4) and briefly concentrated to provide 1.44 g (quant. yield) of the title compound as a clear dark brown oil. 1H NMR (300 MHz, CDCl3) δ 7.48 (br, 1H), 7.46-7.41 (m, 1H), 7.40-7.34 (m, 2H), 3.17 (t, J=14.5 Hz, 2H), 1.29 (br, 2H).

reactant | 2-(3-chlorophenyl)-2,2-difluoroethylamine hydrochloride | 7.23 mmol, 1.65 g | Cl.ClC=1C=C(C=CC1)C(CN)(F)F
reactant | NaOH | 2.5 M, 4 mL | [OH-].[Na+]
product | 2-(3-Chlorophenyl)-2,2-difluoroethylamine | 1.44 g, quant. yield | ClC=1C=C(C=CC1)C(CN)(F)F | C8H8ClF2N
